data/mechanism_extracts/JOC/10.1021_acs.joc.5c00401.json
{"doi": "10.1021_acs.joc.5c00401", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical azidohydroxylation and azidoazidation (diazidation) of α-trifluoromethyl alkenes with TMSN3 via a radical-polar crossover mechanism affording β-CF3 azido alcohols or 1,2-diazides.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation of azide (from TMSN3) to azidyl radical; subsequent second anodic oxidation of the β-CF3 alkyl radical adduct to a benzylic/α-CF3 carbocation. Cathode reduces HOAc to H2 and acetate.", "key_intermediates": [{"name": "azidyl radical (N3•)", "smiles": "[N-]=[N+]=[N]", "role": "reactive"}, {"name": "α-trifluoromethyl β-azido carbon radical (intermediate B)", "smiles": null, "role": "transient"}, {"name": "α-trifluoromethyl β-azido benzylic carbocation (intermediate C)", "smiles": null, "role": "reactive"}, {"name": "azidohydroxylation product 3 (β-azido CF3 alcohol)", "smiles": null, "role": "reactive"}, {"name": "1,2-diazide product 4", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, TMSN3 is oxidized by SET to an azidyl radical, which adds to the electron-poor α-CF3 alkene to give a benzylic C-radical; a second anodic oxidation converts this radical to a stabilized α-CF3 benzylic cation, which is trapped by H2O (path 1) to give the azido alcohol or by TMSN3/azide (path 2) to give the 1,2-diazide. The cathode reduces HOAc to H2 and acetate.", "rate_determining_step": null, "probe_reagents": [{"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Trapping adduct 3a' detected by HRMS, supporting involvement of an azidyl/C-radical."}, {"name": "methanol (as solvent)", "smiles": "CO", "purpose": "intermediate_trap", "observation": "Azidomethoxylation product 4i obtained in 42% yield, supporting a carbocation intermediate trapped by MeOH."}, {"name": "TMSN3 (CV)", "smiles": "C[Si](C)(C)N=[N+]=[N-]", "purpose": "redox_probe", "observation": "Oxidation peak at +0.93 V vs Ag+/Ag, lower than alkene 1a (+2.10 V), indicating TMSN3 is preferentially oxidized at the anode."}, {"name": "trifluoromethyl alkene 1a (CV)", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peak at +2.10 V vs Ag+/Ag, higher than TMSN3, ruling out direct alkene oxidation as initiation."}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Chemodivergence between azidohydroxylation (3) and diazidation (4) is controlled by electrode (Ni vs Pt cathode; graphite rod vs graphite felt anode) and solvent (DMSO/HOAc vs MeCN/HOAc); MeOH solvent diverts the cation to azidomethoxylation product, consistent with a radical-polar crossover via a carbocation rather than a closed-shell radical pathway."}
